US06465513B1
Step A: Preparation of 3-Methoxycarbonyladamantane-1-carboxylic Acid Chloride
3-Methoxycarbonyladamantane-1-carboxylic acid (1.0 eq) was suspended in a solution of CH2Cl2 containing a catalytic amount of DMF. This mixture was then cooled to 0° C. and oxalyl chloride (3.0 eq) was added. After 15 minutes, the reaction mixture was allowed to warm to room temperature and stirred at this temperature for 30 minutes, and then warmed to reflux for 1 hour. During the reflux period, the reaction became homogenous. The reaction mixture was then cooled and concentrated at reduced pressure. The residue was taken-up in diethyl ether and filtered. The filtrate was concentrated at reduced pressure to yield the title intermediate as a yellow liquid.

reactant | 3-Methoxycarbonyladamantane-1-carboxylic acid | 1.0 eq | COC(=O)C12CC3(CC(CC(C1)C3)C2)C(=O)O | C13H18O4
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | oxalyl chloride | 3.0 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-Methoxycarbonyladamantane-1-carboxylic Acid Chloride | COC(=O)C12CC3(CC(CC(C1)C3)C2)C(=O)Cl | C13H17ClO3
